US05401736
Synthesis of (S) -1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid dihydrochloride (VII-2)
A 1N hydrochloric acid solution (13.7 ml) and a 37% formaldehyde solution (0.74 ml, 0.00907 mol) were added to 3-(3-methyl-4-nitrophenyl)methyl-L-histidine dihydrochloride (VIII-2) (1.1406 g, 0.00302 mol), and the mixture was stirred first at room temperature for half an hour and then on a 120° C. oil bath for 1.5 hours. The mixture was then cooled and concentrated to obtain the objective compound (VII-2) (1.1538 g; yield: 98.0%) as yellowish brown crystals (decomposed at 256.5°-258° C).

reactant | hydrochloric acid | 1N, 13.7 ml | Cl | ClH
reactant | formaldehyde | 0.00907 mol, 0.74 ml | C=O | CH2O
reactant | 3-(3-methyl-4-nitrophenyl)methyl-L-histidine dihydrochloride | 0.00302 mol, 1.1406 g | Cl.Cl.CC=1C=C(C=CC1[N+](=O)[O-])CN1C=NC=C1C[C@H](N)C(=O)O
product | (S) -1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid dihydrochloride | yield: 98.0% | Cl.Cl.CC=1C=C(C=CC1[N+](=O)[O-])CN1C=NC=2CN[C@@H](CC21)C(=O)O | InChI=1S/C15H16N4O4.2ClH/c1-9-4-10(2-3-13(9)19(22)23)7-18-8-17-12-6-16-11(15(20)21)5-14(12)18;;/h2-4,8,11,16H,5-7H2,1H3,(H,20,21);2*1H/t11-;;/m0../s1
